Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old man with a PMH notable for hypertension & 
BPH (with prostate surgery at ___, ___ who 
presented with hematuria.  
 The patient reports he started to have hematuria about 4 days 
ago. He has also been passing clots. He has been able to urinate 
without issues, with associated dysuria. He reports he had 
similar symptoms in the past, about a few times per year. This 
has been attributed to his prostate surgery in the past. He has 
been having lightheadedness today. He denies nausea, vomiting, 
diarrhea, chest pain or dyspnea.  
 Upon review of prior Atrius records, his last Cr 1.2 (___), 
and 0.92 (___) and last Hgb 12.4 (___). On ___, Hgb 8.2.  
 In the ED, initial vitals were:  
 - Exam notable for: no CVA tenderness; abdomen soft & 
non-tender.  
 - Labs notable for: bloody UA, Hb 7.7 (down from 8.2 in clinic 
on ___, Na 129, K 5.3, BUN 27/Cr 2, lactate 2.1  
 - Renal ultrasound showed: minimally distended bladder is 
filled with heterogeneous echogenic material which may reflect 
hematoma. Enlarged calculated prostatic volume of 252 cc.  
 - 1 g ceftriaxone & 1L NS was given.  
 - Urology was consulted, and recommended: Renal US, CBI, 
transfuse 1u pRBCs, recheck HCT in the am. Urology to reassess 
in the am around ___ to determine if pt will need to go to OR  

 - Foley catheter was unable to be placed.  
 Upon arrival to the floor, patient reports feeling otherwise 
well. He notes that he has had some pain with urination since 
the hematuria started, but he has not taken any analgesics for 
this (including NSAIDs). He did not that he had a "few" drinks 
to help with the pain. Upon review of medications, he notes that 
he takes 80 mg (2x 40 mg tabs) of lisinopril daily for 
hypertension.  
 He endorsed fatigue, mild dyspnea on exertion and 
lightheadedness starting today. Otherwise, he had no chest pain, 
palpitations, syncope or blurred vision. He denied hematemesis, 
hematochezia, melena.  
 
Past Medical History:
 # Hypertension  
 # BPH  
 # Pre-diabetes  
 
Social History:
___
Family History:
no family history of bladder or kidney disease. 
 
Physical Exam:
ON ADMISSION:
 VITAL SIGNS - T 98.3, BP 156/88, HR 103, RR 18, SpO2 99%/RA  
 GENERAL - in no apparent distress, non toxic  
 HEENT - conjunctival pallor, no scleral icterus, moist mucous 
membranes, poor dentition  
 NECK - unable to asses for JVD, no carotid murmurs  
 CARDIAC - regular, normal S1/S2 with quiet flow murmur  
 LUNGS - clear  
 ABDOMEN - large, non-tender, non-distended, normal bowel sounds 
 
 EXTREMITIES - warm, 2+ radial & DP pulses bilaterally, 1+ 
pitting edema in bilateral ___  
 ___ - face symmetric, tongue protrudes midline, oriented 
x4  
 PSYCHIATRIC - loquacious, occasional tangential comments 

ON DISCHARGE:
Vitals:  98.1 152 / 83 106 18 98 Ra  
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, no lower extremity edema 
 
Pertinent Results:
ON ADMISSION:

___ 08:47PM BLOOD WBC-10.0 RBC-2.38* Hgb-7.7* Hct-22.7* 
MCV-95 MCH-32.4* MCHC-33.9 RDW-12.4 RDWSD-42.7 Plt ___
___ 08:47PM BLOOD Neuts-74.9* Lymphs-15.7* Monos-8.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-7.46* AbsLymp-1.56 
AbsMono-0.85* AbsEos-0.00* AbsBaso-0.02
___ 08:47PM BLOOD ___ PTT-24.7* ___
___ 08:47PM BLOOD Glucose-371* UreaN-27* Creat-2.0* Na-129* 
K-5.3* Cl-91* HCO3-23 AnGap-20
___ 08:47PM BLOOD Iron-39*
___ 11:29PM BLOOD ___ pO2-31* pCO2-46* pH-7.35 
calTCO2-26 Base XS--1
___ 11:29PM BLOOD Lactate-2.1*

ON DISCHARGE:

___ 05:49AM BLOOD WBC-4.6 RBC-2.40* Hgb-7.7* Hct-23.0* 
MCV-96 MCH-32.1* MCHC-33.5 RDW-14.2 RDWSD-49.1* Plt ___
___ 05:49AM BLOOD Glucose-126* UreaN-13 Creat-1.1 Na-138 
K-4.0 Cl-103 HCO3-23 AnGap-16
___ 05:49AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.1

OTHER:
___ 05:22AM BLOOD %HbA1c-7.9* eAG-180*

IMAGING:
RENAL US
IMPRESSION: 
1.  Minimally distended bladder is filled with heterogeneous 
echogenic
material which may reflect hematoma.
2.  Enlarged calculated prostatic volume of 252 cc.

URINALYSIS:
Blood Nitrite Protein Glucose Ketone Bilirub Urobiln pH Leuks
LG NEG 100 300 10 NEG NEG 6.5 MOD

Urine culture pending at discharge  

 
Brief Hospital Course:
___ year old man with a PMH notable for hypertension & BPH (with 
prostate surgery at ___, ___ who presented with 
hematuria and acute renal failure.

#HEMATURIA
Pt reported several days of gross hematuria w/clots. Has had 
multiple episodes in the past year that resolved with drinking 
water. Pt drank a lot of water, but bleeding persisted. Renal US 
noted no hydronephrosis and a large prostate. Hb upon admission 
was 7.7 --> 6.4. Pt received one unit pRBCs and repeat Hb 7.7. 
Pt continued to have good urine output so foley was not placed. 
He was treated with IVF. Urology evaluated and agreed with IVF 
resuscitation and thought bleeding was related to BPH, although 
malignancy could not be ruled out without cystoscopy. They 
recommended outpatient cystoscopy. Urine yellow/clear upon 
discharge. Of note, urine culture showed ___ strep viridans. . 
Pt given 1 dose of cftx in ED, but not treated for UTI

#ACUTE KIDNEY INJURY, HYPERKALEMIA
Pt was noted to have elevated Cr (2.0, baseline 1.2) upon 
admission as well. Renal US was w/o hydronephrosis. Cr improved 
with IVF and was 1.1 on day of discharge. Likely pre renal. K 
was also elevated upon admission, likely d/t renal failure and 
improved with IVF. Lisinopril was initially held upon admission 
given ___, but restarted upon discharge.

#DIABETES MELLITUS
Pt was noted to have elevated finger sticks in the hospital. Was 
treated with insulin sliding scale in the hospital. A1c was 7.9. 
Discussed a1c with patient and discharged on metformin 500 mg PO 
BID.

**TRANSITIONAL ISSUES**
MEDICATION CHANGES: Decreased lisinopril to 40 mg daily as this 
is max dose for hypertension, pt reported that he wasn't taking 
amlodipine consistently at home so we encouraged daily use
-Started metformin 500 mg PO BID
-Set up appointments with PCP and urologist
-___ recheck chem 10 and CBC at follow up appointment on 
___
-F/u urine culture
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. amLODIPine 10 mg PO DAILY 
3. Lisinopril 40 mg PO BID 

 
Discharge Medications:
1.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*0 
2.  Lisinopril 40 mg PO DAILY  
3.  amLODIPine 10 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Gross hematuria
Diabetes Mellitus
BPH

Secondary diagnoses:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
-You came to the hospital because of blood in your urine and 
feeling lightheaded.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
-You received one unit of blood and were treated with fluids. 
Your urine went from red to pink to yellow. 
-Our urology doctors ___ in bladder) saw you and 
believe that this is related to your large prostate, but 
bleeding can be associated with cancer. You need to have a 
cystoscopy as an outpatient (a camera that is placed in bladder 
to look for abnormalities)

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
-Keep taking your medications as prescribed
-Follow up with your PCP and urologist (we have made you an 
appointment). See information below. You should have your labs 
checked at your primary care appointment.
-We have started you on a medication called metformin. Take one 
pill in the morning and one pill in the evening. This medication 
can cause bloating, gas and diarrhea. 
-At home for your blood pressure, take one pill of lisinopril 
(40 mg daily) and one pill of amlodipine daily (10 mg daily)

It was a pleasure taking care of you

Best,
Your ___ Team
 
Followup Instructions:
___